US07223767B2
A mixture of 2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-4-ol (4 g, 16 mmol) and 25 mL of phosphorous oxychloride was heated under reflux for 2 hours, concentrated under reduced pressure and ice, water and dichloromethane were added. The mixture was basified with aqueous sodium carbonate and the organic layer was dried (sodium sulfate) and evaporated to afford 4.4 g of 4-chloro-2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydroquinazoline as an oil.

reactant | 2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydro-quinazolin-4-ol | 16 mmol, 4 g | CC1=NC=2C(CCCC2C(=N1)O)(C1=CC=CC=C1)C | C16H18N2O
reactant | phosphorous oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,8-dimethyl-8-phenyl-5,6,7,8-tetrahydroquinazoline | 4.4 g | ClC1=NC(=NC=2C(CCCC12)(C1=CC=CC=C1)C)C | C16H17ClN2
